US04698340
A mixture of methyl 1,6-dihydro-4-methyl-6-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate (0.5 g) and sulfur powder (0.046 g) was heated at 150° C. for 1 hour. After cooling, the mixture was dissolved in chloroform and filtered. The filtrate was evaporated under reduced pressure to give a crystal of methyl 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyridinecarboxylate (0.2 g).

reactant | methyl 1,6-dihydro-4-methyl-6-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate | 0.5 g | CC=1N=C(NC(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C19H17N3O4
reactant | sulfur | 0.046 g | [S] | S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyridinecarboxylate | 0.2 g | CC1=C(C(=CC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC | C20H16N2O4
